US08609656B2
1-[4-(6-Amino-8-iodopurin-9-yl)phenyl]-3-(4-chloro-3-(trifluoromethyl)phenyl)urea (Table 2, Compound No. 7)
In 18 mL of tetrahydrofuran, 300 mg (0.67 mmol) of 1-[4-(6-aminopurin-9-yl)phenyl]-3-(4-chloro-3-(trifluoromethyl)phenyl)urea was suspended, and the suspension was cooled to −70° C. To the suspension, 3 mL of a tetrahydrofuran solution of lithium diisopropylamide (1.8 M) was added dropwise, and with stirring the temperature of the suspension was raised to 0° C. over two hours. Again, the suspension was cooled to −70° C., and 350 mg (1.38 mmol) of iodine was added thereto, and the suspension was stirred one hour. To the reaction solution, 100 μL of acetic acid was added, and the reaction solution was concentrated, and purified by a silica gel column (dichloromethane:methanol=9:1) to obtain 243 mg (63%) of a target product as a yellow solid.

reactant | 1-[4-(6-aminopurin-9-yl)phenyl]-3-(4-chloro-3-(trifluoromethyl)phenyl)urea | 0.67 mmol, 300 mg | NC1=C2N=CN(C2=NC=N1)C1=CC=C(C=C1)NC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F | C19H13ClF3N7O
reactant | lithium diisopropylamide | 1.8 M | C(C)(C)[N-]C(C)C.[Li+]
reactant | iodine | 1.38 mmol, 350 mg | II | I2
reactant | acetic acid | 100 μL | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 18 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 1-[4-(6-Amino-8-iodopurin-9-yl)phenyl]-3-(4-chloro-3-(trifluoromethyl)phenyl)urea | 243 mg, 63% | NC1=C2N=C(N(C2=NC=N1)C1=CC=C(C=C1)NC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F)I | C19H12ClF3IN7O
